US08212041B2
(5-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)-3-methylthiophen-2-yl) (morpholino)methanone
To a solution of 5-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)-3-methylthiophene-2-carbonyl chloride (0.100 g, 0.21 mmol) in dichloromethane (2 mL) at 0° C. was added morpholine (0.19 g, 2.1 mmol). The solution was stirred at room temperature twenty minutes, then was concentrated and purified by MPLC chromatography (eluted with 3% methanol in dichloromethane) to yield a yellow solid. Trituration in acetonitrile and filtration afforded the product as a white solid. MS m/z=517.2 [M+1]+. Calc'd for C26H24N6O4S: 516.2.

reactant | 5-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)-3-methylthiophene-2-carbonyl chloride | 0.21 mmol, 0.100 g | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1N=C(C=C2)C2=CC(=C(S2)C(=O)Cl)C | C22H16ClN5O3S
reactant | morpholine | 2.1 mmol, 0.19 g | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (5-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)-3-methylthiophen-2-yl) (morpholino)methanone | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1N=C(C=C2)C2=CC(=C(S2)C(=O)N2CCOCC2)C | C26H24N6O4S
